US07268135B2
Step 1B [Intermediate 2: 2-(4-Bromo-benzenesulfonylamino)-3-methyl-butyric acid methyl ester (3.4 g, 9.71 mmol), 4-hydroxymethyl phenyl boronic acid (1.48 g, 9.71 mmol, 1 equiv.), Pd(PPh3)4 (561mg, 0.48 mmol, 0.05 equiv.) were dissolved in ethylene glycol dimethyl ether (90 mL) under N2 atmosphere and stirred at room temperature for 30 min. Then K2CO3 (2.68 g, 19.4 mmol, 2 equiv.) in H2O (30 mL) was introduced to the reaction mixture and heat to reflux overnight. After TLC confirmation of reaction completion, solvent was removed by rotovap, residue partitioned between EtOAc and brine, organic layer dried over MgSO4, solvent removed, crude residue was triturated with EtOAc to give 2-(4′-Hydroxymethyl-biphenyl-4-sulfonylamino)-3-methyl-butyric acid methyl ester in 67% yield (2.46 g).

reactant | 2-(4-Bromo-benzenesulfonylamino)-3-methyl-butyric acid methyl ester | 9.71 mmol, 3.4 g | COC(C(C(C)C)NS(=O)(=O)C1=CC=C(C=C1)Br)=O | C12H16BrNO4S
reactant | 4-hydroxymethyl phenyl boronic acid | 9.71 mmol, 1.48 g, 1 equiv. | OCC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | K2CO3 | 19.4 mmol, 2.68 g, 2 equiv. | C(=O)([O-])[O-].[K+].[K+]
solvent | ethylene glycol dimethyl ether | 90 mL | COCCOC | C4H10O2
solvent | H2O | 30 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.48 mmol, 561mg, 0.05 equiv. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4′-Hydroxymethyl-biphenyl-4-sulfonylamino)-3-methyl-butyric acid methyl ester | 67% yield | COC(C(C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)CO)=O | C19H23NO5S
